US05180742
8-Hydroxy-8-phenyloctanoic acid (25 g) was dissolved in dichloromethane (100 ml), and acetic anhydride (12 ml), pyridine (25 ml) and dimethylaminopyridine (0.1 g) were added to the solution, followed by stirring at room temperature for 3 hours. The reaction solution was washed with water and then twice with 2N hydrochloric acid, and the organic layer was washed with water, dried and concentrated under reduced pressure to give 8-acetoxy-8-phenyloctanoic acid (21 g). Its typical physical properties and nuclear magnetic resonance spectrum are shown in Table 13.

reactant | 8-Hydroxy-8-phenyloctanoic acid | 25 g | OC(CCCCCCC(=O)O)C1=CC=CC=C1 | C14H20O3
reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 0.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-acetoxy-8-phenyloctanoic acid | 21 g | C(C)(=O)OC(CCCCCCC(=O)O)C1=CC=CC=C1 | C16H22O4
